US09079866B2
N-[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]-N-ethylmethanesulfonamide
The title compound was prepared using methods analogous to those described in Step B of Example 369 by using N-ethyl-N-(2-(4,4,5,5,-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methanesulfonamide and 5-(4-bromo-2-fluorophenyl)pyrazin-2-amine. MS (ESI): mass calcd. C19H19FN4O2S.C2HF3O2, 386.12; m/z found, 387.1 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.44 (d, J=1.2, 1H), 8.33 (d, J=1.2, 1H), 8.14-8.04 (m, 1H), 7.51-7.33 (m, 6H), 3.46 (s, 2H), 2.95 (s, 3H), 1.05 (t, J=7.2, 3H).

reactant | N-ethyl-N-(2-(4,4,5,5,-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methanesulfonamide | C(C)N(S(=O)(=O)C)C1=C(C=CC=C1)B1OC(C(O1)(C)C)(C)C | C15H24BNO4S
reactant | 5-(4-bromo-2-fluorophenyl)pyrazin-2-amine | BrC1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C10H7BrFN3
product | N-[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]-N-ethylmethanesulfonamide | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)N(S(=O)(=O)C)CC)F | C19H19FN4O2S
